US07435815B2
N,N-Diethyl-2-[(5-isopropyl-pyridine-2-sulfonyl)-(2-methoxy-phenyl)-amino]-acetamide
prepared by reaction of [(5-isopropyl-pyridine-2-sulfonyl)-(2-methoxy-phenyl)-amino]-acetic acid with diethylamine

reactant | [(5-isopropyl-pyridine-2-sulfonyl)-(2-methoxy-phenyl)-amino]-acetic acid | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)N(C1=C(C=CC=C1)OC)CC(=O)O | C17H20N2O5S
reactant | diethylamine | C(C)NCC | C4H11N
product | N,N-Diethyl-2-[(5-isopropyl-pyridine-2-sulfonyl)-(2-methoxy-phenyl)-amino]-acetamide | C(C)N(C(CN(C1=C(C=CC=C1)OC)S(=O)(=O)C1=NC=C(C=C1)C(C)C)=O)CC | C21H29N3O4S
